US06703392B2
2-[1-(3,4-Dimethoxy-benzyl)-5,8-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-[1,3,4]thiadiazol-2-yl-acetamide:
prepared by reaction of 1-(3,4-Dimethoxy-benzyl)-5,8-dimethoxy-1,2,3,4-tetrahydroisoquinoline and 2-bromoacetyl bromide with 2-amino-1,3,4-thiadiazole

reactant | 1-(3,4-Dimethoxy-benzyl)-5,8-dimethoxy-1,2,3,4-tetrahydroisoquinoline | COC=1C=C(CC2NCCC3=C(C=CC(=C23)OC)OC)C=CC1OC | C20H25NO4
reactant | 2-bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | 2-amino-1,3,4-thiadiazole | NC=1SC=NN1 | C2H3N3S
product | 2-[1-(3,4-Dimethoxy-benzyl)-5,8-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-[1,3,4]thiadiazol-2-yl-acetamide | COC=1C=C(CC2N(CCC3=C(C=CC(=C23)OC)OC)CC(=O)NC=2SC=NN2)C=CC1OC | C24H28N4O5S
